US04535089
2.0 g of ethyl 2-[2-(4-fluorophenyl)-5-isopropyl-4-oxazolyl]acetate, 15 ml of methanol, 5 ml of water and 0.8 g of potassium hydroxide are treated in the same manner as described in Example 8. 1.5 g of 2-[2-(4-fluorophenyl)-5-isopropyl-4-oxazolyl]acetic acid are thereby obtained. Yield: 83.3%.

reactant | ethyl 2-[2-(4-fluorophenyl)-5-isopropyl-4-oxazolyl]acetate | 2.0 g | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C(C)C | C16H18FNO3
reactant | methanol | 15 ml | CO | CH4O
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
solvent | water | 5 ml | O | H2O
product | 2-[2-(4-fluorophenyl)-5-isopropyl-4-oxazolyl]acetic acid | 1.5 g, Yield: 83.3% | FC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)C(C)C | C14H14FNO3
